US08541588B2
(2-Amino-1,3-oxazol-5-yl)(4-fluorophenyl)methanone (US2005032859, 1 g, 4.85 mmol) and 40% methyl amine water in excess (50 mL) were combined in tert-butanol (50 mL). The mixture was stirred at 50° C. under nitrogen for 2 hours. The mixture was concentrated in vacuo. The residue was filtered through a pad of silica gel using neat ethyl acetate as eluant. The solution was concentrated in vacuo to afford 0.73 g (66%) of 4-(4-fluorophenyl)-2-(methylamino)pyrimidin-5-ol as a crystalline brown solid. MS m/z 220 [M]+

reactant | (2-Amino-1,3-oxazol-5-yl)(4-fluorophenyl)methanone | NC=1OC(=CN1)C(=O)C1=CC=C(C=C1)F | C10H7FN2O2
reactant | methyl amine water | O.CN
solvent | tert-butanol | 50 mL | C(C)(C)(C)O | C4H10O
product | 4-(4-fluorophenyl)-2-(methylamino)pyrimidin-5-ol | 0.73 g, 66% | FC1=CC=C(C=C1)C1=NC(=NC=C1O)NC | C11H10FN3O
